US08232359B2
A 500 mL three-necked round-bottomed flask was charged with 2-bromo-6-tert-butyl-4-methylphenol (20.0 g, 82.3 mmol), potassium hydroxide (9.7 g, 164.5 mmol) and DMSO (dimethylsulfoxide) (100 mL), and the mixture was chilled to 0° C. After slowly injecting iodomethane (23.4 g, 164.5 mmol) thereto, the resultant mixture was stirred at ambient temperature for 12 hours. The reaction mixture was then poured into ice (200 g), and the resultant mixture stirred for 30 minutes. After adding diethyl ether, the organic layer was isolated and the residue was extracted with diethyl ether. The combined organic layer was dried over magnesium sulfate, and evaporated to remove volatiles. Recrystallization from mixture of hexane and dichloromethane gave 1-bromo-3-tert-butyl-2-methoxy-5-methylbenzene (17.5 g, yield: 82.8%).

reactant | 2-bromo-6-tert-butyl-4-methylphenol | 82.3 mmol, 20.0 g | BrC1=C(C(=CC(=C1)C)C(C)(C)C)O | C11H15BrO
reactant | potassium hydroxide | 164.5 mmol, 9.7 g | [OH-].[K+]
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
reactant | iodomethane | 164.5 mmol, 23.4 g | IC | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-bromo-3-tert-butyl-2-methoxy-5-methylbenzene | 17.5 g, yield: 82.8% | BrC1=C(C(=CC(=C1)C)C(C)(C)C)OC | C12H17BrO
